US07662825B2
2,3-Dichloro-N-(3,5-dichloro-2-pyrazinyl)benzenesulphonamide
Prepared by the method of Example 1 (reaction performed at room temperature) using 3,5-dichloro-2-pyrazinamine (2.0 g) and 2,3-dichloro benzenesulphonyl chloride (2.94 g). Yield 3.0 g.

reactant | 3,5-dichloro-2-pyrazinamine | 2.0 g | ClC=1C(=NC=C(N1)Cl)N | C4H3Cl2N3
reactant | 2,3-dichloro benzenesulphonyl chloride | 2.94 g | ClC1=C(C=CC=C1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
product | 2,3-Dichloro-N-(3,5-dichloro-2-pyrazinyl)benzenesulphonamide | ClC1=C(C=CC=C1Cl)S(=O)(=O)NC1=NC=C(N=C1Cl)Cl | C10H5Cl4N3O2S
